US07741341B2
17.3 g (50.52 mmol) 2-(1-Cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester were dissolved in 800 mL DMF. Subsequently 10.47 g (75.8 mmol) K2CO3 and 14.84 g (50.52 mmol) methanesulfonic acid 5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl ester were added and the resulting mixture was stirred for 2 h at 80° C. The mixture was concentrated under reduced pressure. The residue was suspended in 800 mL ethyl acetate. The next day the resulting precipitate was filtered off and washed with 100 mL ethyl acetate to give 3-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-3H-benzoimidazole-5-carboxylic acid methyl ester. The filtrate was concentrated to a volume of approx. 100 mL. Again the formed precipitate was filtered off. That procedure was repeated once again. The remaining filtrate was concentrated under reduced pressure and finally purified by flash-chromatography on silica gel using ethyl acetate as eluent. The product containing fractions were concentrated under vacuo to give pure (>98%) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester as a light brown crystalline solid.

reactant | 2-(1-Cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 50.52 mmol, 17.3 g | COC(=O)C1=CC2=C(NC(=N2)C(NC2CCN(CC2)C2CC2)=O)C=C1 | C18H22N4O3
reactant | K2CO3 | 75.8 mmol, 10.47 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulfonic acid 5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl ester | 50.52 mmol, 14.84 g | ClC1=CC=C(S1)C1=CC(=NO1)COS(=O)(=O)C | C9H8ClNO4S2
solvent | DMF | 800 mL | CN(C)C=O | C3H7NO
product | 3-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2CC2=NOC(=C2)C=2SC(=CC2)Cl)C(NC2CCN(CC2)C2CC2)=O)C=C1 | C26H26ClN5O4S
